US08183231B2
A flask was charged with N-Cbz-L-valine (1.02 g, 4.04 mmol) and DMF (60 mL) and stirred under nitrogen. To this was added diisopropylethylamine (2.11 mL, 12.1 mmol) followed by TBTU (1.30 g, 4.04 mmol). After stirring for 5 minutes, a solution of ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride (8.08 mmol) dissolved in DMF (10 mL) was added. The reaction mixture was stirred overnight at room temperature. The reaction was diluted with ethyl acetate (300 mL) and the organic layer washed with 1N HCl (2×100 mL), water (100 mL), saturated sodium bicarbonate solution (2×100 mL) and brine (100 mL). The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to give the crude product as an amber oil. The crude product was purified by gradient flash chromatography (methanol/methylene chloride) on a 120 g RediSep disposable column to give (1.10 g, 1.97 mmol) of [(R)-3-((S)-2-benzyloxycarbonylamino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester as a white foam. 1H NMR (CDCl3, 300 MHz): δ 7.40-7.25 (m, 10H), 6.70-6.51 (m, 1H), 5.48-5.35 (m, 1H), 5.18-5.01 (m, 4H), 4.20-3.98 (m, 2H), 3.62-3.42 (m, 1H), 3.38-3.18 (m, 1H), 2.30-2.05 (m, 1H), 2.03-1.60 (m, 10H, 1.38-1.02 (m, 5H), 0.98 (dd, 6H). LCMS m/z: [M+H]+=559.

reactant | N-Cbz-L-valine | 4.04 mmol, 1.02 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | diisopropylethylamine | 12.1 mmol, 2.11 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBTU | 4.04 mmol, 1.30 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ((R)-3-amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | 8.08 mmol | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | [(R)-3-((S)-2-benzyloxycarbonylamino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester | 1.97 mmol, 1.10 g | C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CNC([C@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O)O | C30H43N2O6P
